US07700583B2
To a solution of (2-trityl-2H-tetrazol-5-yl)-acetic acid (0.82 g, 2.20 mmol) in dry THF (50 ml) was added CDI (0.4 g, 2.39 mmol) and the resulting mixture was stirred for 10 min. To this mixture was added (4-amino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone (0.5 g, 1.84 mmol) and the stirring was continued for 18 hrs. at room temperature. The mixture was evaporated and the residue purified by column chromatography (silica gel) using EtOAc-Heptane (4:1) as eluent. Pure fractions were collected and evaporated to dryness affording 150 mg (13%) of N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-2-(2-trityl-2H-tetrazol-5-yl-acetamide which was dissolved in THF (25 ml) followed by addition of 20% aqueous HCl (20 ml). The mixture was stirred for 2 hrs. at room temperature at which time the volatiles were removed in vacuo. The aqueous residue was extracted with EtOAc (2×50 ml), dried (Na2SO4), filtered and evaporated in vacuo affording 30 mg (4%) of the title compound as a solid.

reactant | (2-trityl-2H-tetrazol-5-yl)-acetic acid | 2.20 mmol, 0.82 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)CC(=O)O | C22H18N4O2
reactant | CDI | 2.39 mmol, 0.4 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (4-amino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone | 1.84 mmol, 0.5 g | NC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C17H24N2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-trityl-2H-tetrazol-5-yl-acetamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)CC(=O)N | C22H19N5O
